US05753661
A solution of 1-(1,4-benzodioxan-5-yl)piperazin (11 g) and triethylamine (7 ml) in N-methyl-2-pyrrolidinone was treated dropwise with chloroacetonitrile (4.5 g). After stirring for 2 h at 100° C. the mixture was poured onto ice and extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The product, 1-(1,4-benzodioxan-5-yl)-4-cyanomethylpiperazine, was obtained as an oil (17.4 g) which was sufficiently pure for use in the next step.

reactant | 1-(1,4-benzodioxan-5-yl)piperazin | 11 g | O1CCOC2=C1C=CC=C2N2CCNCC2 | C12H16N2O2
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 4.5 g | ClCC#N | C2H2ClN
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-(1,4-benzodioxan-5-yl)-4-cyanomethylpiperazine | O1CCOC2=C1C=CC=C2N2CCN(CC2)CC#N | C14H17N3O2
